US04022833
In a manner similar to that of Example 1, condensation of 1-decene oxide (58 g.) and 1,3-propanediamine (13.8 g.) and three recrystallizations of the resulting product from methanol gave N,N'-(1,3-propylene)-bis[2-hydroxydecylamine] (I: R= CH3 (CH2)7, R' = H, X= (CH2)3, Z= H) (8.5 g., m.p. 104.0°-107.6° C.).

reactant | 1-decene oxide | 58 g | C1C(CCCCCCCC)O1 | C10H20O
reactant | 1,3-propanediamine | 13.8 g | C(CCN)N | C3H10N2
solvent | methanol | CO | CH4O
product | N,N'-(1,3-propylene)-bis[2-hydroxydecylamine] | C(CCNCC(CCCCCCCC)O)NCC(CCCCCCCC)O | C23H50N2O2
